US07851473B2
(3) N-Imidazo[1,2-b]pyridazin-6-yl-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A mixture of bis(2,2,2-trichloroethyl) imidazo[1,2-b]pyridazin-6-ylimidodicarbonate (295 mg, 0.609 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (300 mg, 1.22 mmol) and diisopropylethylamine (0.106 ml, 0.609 mmol) in dimethylsulfoxide (2.0 ml) was stirred at 70° C. for 4 hours. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 212 mg (85.7%) of the desired product as a solid.

reactant | bis(2,2,2-trichloroethyl) imidazo[1,2-b]pyridazin-6-ylimidodicarbonate | 0.609 mmol, 295 mg | N=1C=CN2N=C(C=CC21)N(C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC(Cl)(Cl)Cl | C12H8Cl6N4O4
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 1.22 mmol, 300 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.609 mmol, 0.106 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 2.0 ml | CS(=O)C | C2H6OS
product | N-Imidazo[1,2-b]pyridazin-6-yl-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 212 mg, 85.7% | N=1C=CN2N=C(C=CC21)NC(=O)N2CCN(CC2)C2=NC(=NS2)C2=CC=CC=C2 | C19H18N8OS
